US04094840
(A) 9-Fluoro-11β-hydroxy-17,17-bis(phenylthio)-androsta-1,4-dien-3-one
A solution of 9.0 g of 9-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione in 50 ml of dichloromethane and 50 ml of glacial acetic acid is stirred with 18.68 g of thiophenol and 7.5 ml of boron trifluoride ethereate at room temperature under nitrogen. After 50 minutes the solution is diluted with 350 ml of chloroform. The chloroform solution is washed successively with water, saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and evaporated in vacuo to give 11.6 g of an oil. This is dissolved in 1:3 hexane-chloroform and chromatographed on a 200 g-silica gel column. Elution with 1:3 hexane-chloroform and chloroform gives 3.5 of a tlc-homogeneous material. Crystallization from chloroform-methanol gives 2.0 g of the title compound, melting point 249°-250° C (dec.), with consistent spectral data.

reactant | 9-fluoro-11β-hydroxyandrosta-1,4-diene-3,17-dione | 9.0 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)=O)=O)C | C19H23FO3
reactant | thiophenol | 18.68 g | C1(=CC=CC=C1)S | C6H6S
reactant | boron trifluoride | 7.5 ml | B(F)(F)F | BF3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-Fluoro-11β-hydroxy-17,17-bis(phenylthio)-androsta-1,4-dien-3-one | 11.6 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)(SC2=CC=CC=C2)SC2=CC=CC=C2)=O)C | C31H33FO2S2
